US04652567
1-(Phenylacetyl)-1,2,3,4-tetrahydrobenzo[c]-1,5-naphthyridine
1,2,3,4-Tetrahydrobenzo[c]-1,5-naphthyridine (3.22 g) was treated with cold phenylacetyl chloride (35 ml). Most of the material dissolved and then a precipitate separated. The mixture was diluted with ether (50 ml), and the precipitate was isolated by vacuum filtration and washed twice with ether. The filter cake was dissolved in water (100 ml), and the solution was basified with 10% sodium hydroxide solution and extracted with dichloromethane (2×100 ml). The combined and dried (Na2SO4) organic phase was filtered and concentrated to an oil (5.4 g), which was purified by HPLC (silica gel, eluted with ethyl acetate). The appropriate fractions were combined and concentrated to an oil (4.76 g). Trituration with ether and seeding (seed crystals formed on the neck of the flask which contained the oil) gave 2.68 g of crystals, m.p. 88.5-89.5° C.

reactant | 1,2,3,4-Tetrahydrobenzo[c]-1,5-naphthyridine | 3.22 g | N1C=2C3=C(C=NC2CCC1)C=CC=C3 | C12H12N2
reactant | phenylacetyl chloride | 35 ml | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
product | 1-(Phenylacetyl)-1,2,3,4-tetrahydrobenzo[c]-1,5-naphthyridine | 2.68 g | C1(=CC=CC=C1)CC(=O)N1C=2C3=C(C=NC2CCC1)C=CC=C3 | C20H18N2O
